US04394384
A solution of 2-(2-cyclopenten-1-yl)oxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (1.5 g) in dry tetrahydrofuran (12 ml) was added to the stirred suspension of the solution of Vilsmeier reagent under ice-cooling. The resulting mixture was added to a solution of 7-amino-2-methyl-3-cephem-4-carboxylic acid (1.37 g) and trimethylsilylacetamide (5.04 g) in ethyl acetate (14 ml) at -30° to -20° C. and the mixture was stirred at -5°~-10° C. for 2 hours. After the addition of water and ethyl acetate to the reaction mixture, the ethyl acetate layer was separated and adjusted to pH 7 with an aqueous solution of sodium bicarbonate. The aqueous layer was separated and thereto was added ethyl acetate. The mixture was adjusted to pH 2.5 with 10% hydrochloric acid. The ethyl acetate layer was separated, washed with an aqueous solution of sodium chloride, dried over magnesium sulfate and then evaporated. The residue was pulverized in diisopropyl ether to give 7-[2-(2-cyclopenten-1-yl)oxyimino-2-(2-formamidothiazol-4-yl)acetamido]-2-methyl-3-cephem-4-carboxylic acid (syn isomer) (1.98 g).

reactant | 2-(2-cyclopenten-1-yl)oxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 1.5 g | C1(C=CCC1)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C11H11N3O4S
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | 7-amino-2-methyl-3-cephem-4-carboxylic acid | 1.37 g | NC1[C@@H]2N(C(=CC(S2)C)C(=O)O)C1=O | C8H10N2O3S
reactant | trimethylsilylacetamide | 5.04 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 14 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-[2-(2-cyclopenten-1-yl)oxyimino-2-(2-formamidothiazol-4-yl)acetamido]-2-methyl-3-cephem-4-carboxylic acid | 1.98 g | C1(C=CCC1)ON=C(C(=O)NC1[C@@H]2N(C(=CC(S2)C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C19H19N5O6S2
